US04968708
After 5.40 g of 2-aminobenzothiazole and 7.52 g of 1-bromo-2-butanone were allowed to stand in 40 ml of methyl ethyl ketone at room temperature overnight, 40 ml of water was added to the reaction mixture. Methyl ethyl ketone was distilled off on a water bath of 50° C. under reduced pressure. The residue was crystallized with ether and the crystals were then taken out by filtration to give 8.0 g of 2-ethylimidazo[2,1-b]benzothiazole.

reactant | 2-aminobenzothiazole | 5.40 g | NC=1SC2=C(N1)C=CC=C2 | C7H6N2S
reactant | 1-bromo-2-butanone | 7.52 g | BrCC(CC)=O | C4H7BrO
reactant | water | 40 ml | O | H2O
solvent | methyl ethyl ketone | 40 ml | C(C)C(=O)C | C4H8O
product | 2-ethylimidazo[2,1-b]benzothiazole | 8.0 g | C(C)C=1N=C2SC3=C(N2C1)C=CC=C3 | C11H10N2S
